US05284971
Following the procedure of Newman and Karnes, J. Org. Chem. 31, 3980 (1966), a mixture of ethyl 3,5-dibromo-4-hydroxyphenylacetate (20 g, 0.06 mol), from Preparation B, N,N-dimethylthiocarbamoyl chloride (10.9 g, 0.088 mol), and 1,4-diazabicyclo[2 2.2]octane (Dabco™) (13.4 g, 0.12 mol) in 250 mL DMF was heated, with stirring, at 70° C. for one hour. The reaction mixture was cooled and the precipitate (Dabco-HCl salt) removed by filtration and washed well with ethyl acetate. The filtrate was concentrated on a rotary evaporator and the solid collected by filtration, washed well with water and dried in vacuum to obtain ethyl 3,5-dibromo-4-(N,N-dimethylthiocarbamoyloxy)phenylacetate (16 g, 0.037 mol, 62% yield), MP: 93°-95° C. (hexane/ethyl acetate).

reactant | ethyl 3,5-dibromo-4-hydroxyphenylacetate | 0.06 mol, 20 g | BrC=1C=C(C=C(C1O)Br)CC(=O)OCC | C10H10Br2O3
reactant | N,N-dimethylthiocarbamoyl chloride | 0.088 mol, 10.9 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | octane | 0.12 mol, 13.4 g | CCCCCCCC | C8H18
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | ethyl 3,5-dibromo-4-(N,N-dimethylthiocarbamoyloxy)phenylacetate | 0.037 mol, 16 g, 62% yield | BrC=1C=C(C=C(C1OC(N(C)C)=S)Br)CC(=O)OCC | C13H15Br2NO3S
